US04874894
Following the procedure described in Example 1, part B above, 94.94 g (0.45 m) of 4-methoxybenzenesulfonyl chloride from part A above was interacted with ammonium hydroxide to obtain 70.41 g of 4-methoxybenzenesulfonamide, shiny white crystals which melted at 111°-112° C.

reactant | 4-methoxybenzenesulfonyl chloride | 94.94 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-methoxybenzenesulfonamide | 70.41 g | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
